US05256680
Monoperoxyphthalic acid, magnesium salt hexahydrate (1.4 g of a 80% pure solid, 0.0056 mole) is added portionwise to a 0° C. solution of (E)-2,6-bis(1,1-dimethylethyl)-4-[2-[5-(methylthio)-1,3,4-thiadiazol-2-yl]ethenyl]-phenol (1.0 g, 0.0028 mole) in methanol (15 ml) and water (7 ml). After the addition is complete the solution is allowed to warm to room temperature and stir for two hours. The mixture is then warmed on a steam bath for 45 minutes before cooling and concentrating in vacuo. The residue is dissolved in ether and washed with saturated aqueous NaHCO3, saturated aqueous NaCl, and dried over MgSO4. Filtration and concentration in vacuo gives a residue which is purified by flash chromatography (SiO2) using a 15% ethyl acetate/hexane eluent, followed by recrystallization from ethyl acetate/hexane to give 0.22 g (1.1 g theor., 22%) (E)-2,6-bis(1,1-dimethyl-ethyl)-4-[2-[5-(methylsulfonyl)-1,3,4-thiadiazol2-yl]etheny]phenol, mp 235° C.

reactant | Monoperoxyphthalic acid | C1=CC(=C(C(=C1)OO)C(=O)O)C(=O)O | C8H6O6
reactant | (E)-2,6-bis(1,1-dimethylethyl)-4-[2-[5-(methylthio)-1,3,4-thiadiazol-2-yl]ethenyl]-phenol | 0.0028 mole, 1.0 g | CC(C)(C)C1=C(C(=CC(=C1)\C=C\C=1SC(=NN1)SC)C(C)(C)C)O | C19H26N2OS2
reactant | water | 7 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | (E)-2,6-bis(1,1-dimethyl-ethyl)-4-[2-[5-(methylsulfonyl)-1,3,4-thiadiazol2-yl]etheny]phenol | 0.22 g, 22% | CC(C)(C)C1=C(C(=CC(=C1)\C=C\C=1SC(=NN1)S(=O)(=O)C)C(C)(C)C)O | C19H26N2O3S2
